US07612108B2
Under an argon atmosphere, 1.0 g of 4-bromo-1-isobutoxy-2-nitrobenzene, 1.0 g of bispinacolatodiboron, 1.2g of potassium acetate, and 0.1 g of tetrakis(triphenylphosphine)palladium were heated at 100° C. for 4 days in toluene. Then, 658 mg of 5-bromothiophene-2-carbonitrile, 0.1 g of tetrakis(triphenylphosphine)palladium, 10 ml of 1,4-dioxane, and 12 ml of a 2 M aqueous sodium carbonate solution were added thereto, followed by heating at 100° C. for 4 hours under an argon atmosphere. After the reaction solution was diluted with water and ethyl acetate, the solution was filtrated through celite. The filtrate was extracted with ethyl acetate and the organic layer was washed with brine and then dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=90:10) to obtain 522 mg of 5-(4-isobutoxy-3-nitrophenyl)thiophene-2-carbonitrile. Then, 214 mg of the compound, 0.13 g of triethylamine hydrochloride, and 60 mg of sodium azide were heated at 100° C. for 14 hours in 20 ml of toluene. Additionally, 0.13 g of triethylamine hydrochloride and 60 mg of sodium azide were added thereto, followed by heating at 100° C. for 4 hours. The reaction solution was extracted with water and the aqueous layer was acidified with 1 M hydrochloric acid. The precipitate was collected by filtration, washed with water, dried, and purified by silica gel column chromatography (chloroform:methanol:acetic acid=94.7:5:0.3) to obtain 67 mg of 5-[5-(4-isobutoxy-3-nitrophenyl)-2-thienyl]-1H-tetrazole.

reactant | 4-bromo-1-isobutoxy-2-nitrobenzene | 1.0 g | BrC1=CC(=C(C=C1)OCC(C)C)[N+](=O)[O-] | C10H12BrNO3
reactant | potassium acetate | 1.2g | C(C)(=O)[O-].[K+]
reactant | 5-bromothiophene-2-carbonitrile | 658 mg | BrC1=CC=C(S1)C#N | C5H2BrNS
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 0.1 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 5-(4-isobutoxy-3-nitrophenyl)thiophene-2-carbonitrile | 522 mg | C(C(C)C)OC1=C(C=C(C=C1)C1=CC=C(S1)C#N)[N+](=O)[O-] | C15H14N2O3S
